US04621145
Thionyl chloride (217 ml) is slowly added to a stirred suspension of L-glutamic acid (417 g) in dry ethanol (1 L), and the mixture is refluxed for 5 hours. Ethanol is removed under vaccum to give a residue, which is dissolved in water (500 ml). The water solution is made alkaline with saturated sodium carbonate solution and extracted with chloroform (4×200 ml). The chloroform extract is dried (Na2SO4) and evaporated to give crude product (178 g). This material is heated (160° C.) under vaccum (10 mm Hg) for 3 hours. Subsequent distillation gives pure ethyl L-pyroglutamate (126.6 g; b.p. 126° C./0.07 mm Hg; [α]D =-2.15°±0.01 (H2O, c=17.8).

reactant | Thionyl chloride | 217 ml | S(=O)(Cl)Cl | Cl2OS
reactant | L-glutamic acid | 417 g | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 1 L | C(C)O | C2H6O
solvent | water | 500 ml | O | H2O
product | ethyl L-pyroglutamate | N1[C@@H](CCC1=O)C(=O)OCC | C7H11NO3
